US07612092B2
5-({7-[3-(Diethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thiopheneamine
N,N-Diethyl-N-[3-((6-methoxy-4-[(5-nitro-2-thienyl)sulfanyl]-7-quinolyl)oxy)propyl]amine (525 mg), iron powder (330 mg), ammonium chloride (660 mg), ethanol (20 ml) and water (5 ml) were stirred together at 80° C. for 80 minutes. After filtration with celite, NH type silica gel was added to the filtrate, the solvent was distilled off under reduced pressure and the reaction product was adsorbed onto the silica gel. The silica gel was charged into a dry column packed with NH type silica gel, and column purification was performed (ethyl acetate, followed by ethyl acetate:methanol=3:1) to obtain 190 mg of a brown oil.

reactant | N,N-Diethyl-N-[3-((6-methoxy-4-[(5-nitro-2-thienyl)sulfanyl]-7-quinolyl)oxy)propyl]amine | 525 mg | C(C)N(CCCOC1=C(C=C2C(=CC=NC2=C1)SC=1SC(=CC1)[N+](=O)[O-])OC)CC | C21H25N3O4S2
reactant | ammonium chloride | 660 mg | [Cl-].[NH4+]
reactant | ethanol | 20 ml | C(C)O | C2H6O
catalyst | iron | 330 mg | [Fe] | Fe
solvent | water | 5 ml | O | H2O
product | 5-({7-[3-(Diethylamino)propoxy]-6-methoxy-4-quinolyl}sulfanyl)-2-thiopheneamine | 190 mg | C(C)N(CCCOC1=C(C=C2C(=CC=NC2=C1)SC1=CC=C(S1)N)OC)CC | C21H27N3O2S2
